US05889026
A solution of 4-benzyloxy benzoic acid (20 g, 87.6 mmol), 1,1,-carbonyl-diimidazole (14.9 g, 91.8 mmol) and DMF (80 ml) was stirred at 50° C. for 1 h. The solution is cooled to 0° C., and ethanolamine (25% in water, 81.2 g) is added. After 45 min., the precipitate was filtered to give 4-benzyloxy-N-(2-hydroxy-ethyl)-benzamide (22.49 g, 94.5%) as a white solid. MS: me/e=271 (M)+.

reactant | 4-benzyloxy benzoic acid | 87.6 mmol, 20 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | carbonyl-diimidazole | 91.8 mmol, 14.9 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | ethanolamine | 81.2 g | C(O)CN | C2H7NO
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 4-benzyloxy-N-(2-hydroxy-ethyl)-benzamide | 22.49 g, 94.5% | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCCO)C=C1 | C16H17NO3
